US07241791B2
Step 1: 1-cyclohexyl-3-(4-methoxyphenyl)-7-trifluoromethyl-1H-indazole
Prepared according to Method C step A (2-fluoro-3-trifluoromethyl-phenyl)-(4-methoxyphenyl)-methanone (0.149 g, 0.5 mmol), cyclohexylhydrazine hydrochloride (0.90 g, 0.6 mmol) and DMAP (0.061 g, 0.5 mmol) to give the title compound.

reactant | (2-fluoro-3-trifluoromethyl-phenyl)-(4-methoxyphenyl)-methanone | 0.5 mmol, 0.149 g | FC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=C(C=C1)OC | C15H10F4O2
reactant | cyclohexylhydrazine hydrochloride | 0.6 mmol, 0.90 g | Cl.C1(CCCCC1)NN
catalyst | DMAP | 0.5 mmol, 0.061 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-cyclohexyl-3-(4-methoxyphenyl)-7-trifluoromethyl-1H-indazole | C1(CCCCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=CC=C(C=C1)OC | C21H21F3N2O
